US07687524B2
Step 3: N1-(1-cyanocyclopropyl)-N2-[(1S)-2,2-difluoro-1-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]ethyl}-4-fluoro-L-leucinamide
N2-[(1S)-1-(4-bromophenyl)-2,2-difluoroethyl]-N1-(1-cyanocyclopropyl)-4-fluoro-L-leucinamide was reacted with bis(pinacolato)diboron as described in Example 1, Step 6 to give the title compound.

reactant | N2-[(1S)-1-(4-bromophenyl)-2,2-difluoroethyl]-N1-(1-cyanocyclopropyl)-4-fluoro-L-leucinamide | BrC1=CC=C(C=C1)[C@@H](C(F)F)N[C@@H](CC(C)(C)F)C(=O)NC1(CC1)C#N | C18H21BrF3N3O
reactant | bis(pinacolato)diboron | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
product | N1-(1-cyanocyclopropyl)-N2-[(1S)-2,2-difluoro-1-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]ethyl}-4-fluoro-L-leucinamide | C(#N)C1(CC1)NC([C@@H](N[C@H](C(F)F)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)CC(C)(C)F)=O | C24H33BF3N3O3
